US05840732
ii) Synthesis of 5-decylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione hydrochloride
To a methanol solution of 2.12 g (4.8 mmol) of 5-decylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione, 1.25 ml of 4N hydrochloric acid-ethyl acetate was added, followed by stirring. After the solvent was distilled off, the residue was washed with ether to yield 1.88 g (81.6%, white solid) of the desired product.

reactant | 5-decylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione | 4.8 mmol, 2.12 g | C(CCCCCCCCC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | C24H33N3O3S
reactant | hydrochloric acid ethyl acetate | 4N, 1.25 ml | Cl.C(C)(=O)OCC
solvent | methanol | CO | CH4O
product | 5-decylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCCCCCCCC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | InChI=1S/C24H33N3O3S.ClH/c1-2-3-4-5-6-7-8-9-14-21-23(28)27(24(29)31-21)17-10-11-19-30-20-13-12-16-26-18-15-25-22(20)26;/h12-16,18H,2-11,17,19H2,1H3;1H
